US04542132
Trimethylsulphoxonium iodide (2.25 g) was added portionwise to a stirred suspension of sodium hydride (0.5 g of a 50% dispersion in oil) in dimethylsulphoxide (20 cm3) and the mixture was stirred for 1 hour after which time 6,7-dimethoxy-4-[4-(1-oxoethyl)piperid-1-yl]quinazoline (3.15 g) was added in DMSO (10 cm3). After 1 hour the mixture was poured into water (50 cm3), extracted with dichloromethane (3×50 cm3) and the dried extracts (MgSO4) were evaporated to give an oil which was chromatographed on silica (Merck 60.9385) eluting with chloroform to give a viscous oil. Trituration with ether gave 2-methyl-2-[1-(6,7-dimethoxyquinazolin-4-yl)piperid-4-yl]oxirane slightly contaminated with the starting ketone (2.0 g).

reactant | Trimethylsulphoxonium iodide | 2.25 g | [I-].C[S+](=O)(C)C
reactant | sodium hydride | [H-].[Na+]
reactant | 6,7-dimethoxy-4-[4-(1-oxoethyl)piperid-1-yl]quinazoline | 3.15 g | COC=1C=C2C(=NC=NC2=CC1OC)N1CCC(CC1)C(C)=O | C17H21N3O3
reactant | water | 50 cm3 | O | H2O
solvent | dimethylsulphoxide | 20 cm3 | CS(=O)C | C2H6OS
solvent | DMSO | 10 cm3 | CS(=O)C | C2H6OS
solvent | ether | CCOCC | C4H10O
product | 2-methyl-2-[1-(6,7-dimethoxyquinazolin-4-yl)piperid-4-yl]oxirane | CC1(OC1)C1CCN(CC1)C1=NC=NC2=CC(=C(C=C12)OC)OC | C18H23N3O3
